US06660753B2
A mixture of methyl 3-(bromomethyl)-5-iodobenzoate (400 mg, 1.1 mmol) and potassium carbonate (311 mg, 2.3 mmol) in methanol/tetrathydrofuran (5 mL/5 mL) was heated at 55° C. for 1 hour. After cooling, the reaction mixture was diluted with water and then extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate, filtered, and concentrated. After drying in vacuo, 325 mg (94%) of methyl 3-(methoxymethyl)-5-iodobenzoate was isolated as a white solid.

reactant | methyl 3-(bromomethyl)-5-iodobenzoate | 1.1 mmol, 400 mg | BrCC=1C=C(C(=O)OC)C=C(C1)I | C9H8BrIO2
reactant | potassium carbonate | 2.3 mmol, 311 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | methyl 3-(methoxymethyl)-5-iodobenzoate | 325 mg, 94% | COCC=1C=C(C(=O)OC)C=C(C1)I | C10H11IO3
